US09403807B2
Step C: tert-butyl 1-(1-(4-chlorophenyl)-1-(2-ethyl-2H-1,2,3-triazol-4-yl)propyl)-1H-indol-4-ylcarbamate
A solution of tert-butyl 1-(1-(4-chlorophenyl)-1-(2H-1,2,3-triazol-4-yl)propyl)-1H-indol-4-ylcarbamate (150 mg, 0.33 mmol) in DMF (5 mL), was added potassium carbonate (91 mg, 0.66 mmol) and iodoethane (62 mg, 0.40 mmol). After stirring for 2 hours, the mixture was diluted with saturated aqueous ammonium chloride (10 mL) and extracted with EA. The combined organic layers were washed with brine (10 mL), dried over anhydrous sodium sulfate, filtered, and the solvent was removed in vacuo to afford the crude product. The product was purified via column chromatography (50% EtOAc/hexanes) to provide the title product.

reactant | tert-butyl 1-(1-(4-chlorophenyl)-1-(2H-1,2,3-triazol-4-yl)propyl)-1H-indol-4-ylcarbamate | 0.33 mmol, 150 mg | ClC1=CC=C(C=C1)C(CC)(C1=NNN=C1)N1C=CC2=C(C=CC=C12)NC(OC(C)(C)C)=O | C24H26ClN5O2
reactant | potassium carbonate | 0.66 mmol, 91 mg | C([O-])([O-])=O.[K+].[K+]
reactant | iodoethane | 0.40 mmol, 62 mg | ICC | C2H5I
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | ammonium chloride | 10 mL | [Cl-].[NH4+]
product | tert-butyl 1-(1-(4-chlorophenyl)-1-(2-ethyl-2H-1,2,3-triazol-4-yl)propyl)-1H-indol-4-ylcarbamate | ClC1=CC=C(C=C1)C(CC)(C1=NN(N=C1)CC)N1C=CC2=C(C=CC=C12)NC(OC(C)(C)C)=O | C26H30ClN5O2
